US04394156
(d) 1-(3-Trifluoromethanesulfonamido-4',6'-dimethylphenyl)-3-cyano-4,6-dimethyl-2-pyridone
To a solution of 21.6 g (0.08 mol) 1-(3'-amino-4',6'-dimethylphenyl)-3-cyano-4,6-dimethyl-2-pyridone and 10.4 ml N,N-dimethylaniline in 600 ml of abs. chloroform at 0° C. is added dropwise within 30 minutes a solution of 14.8 ml trifluoromethanesulfonic acid anhydride in 40 ml chloroform. After stirring the solution for 2 h, while the temperature allowed to rise to 25° C., 50 ml of 1 N sodium hydroxid solution is added dropwise. During the latter operation the temperature is controlled by cooling with ice. After separation of the aqueous phase the chloroform solution is once more extracted with 50 ml of 1 N sodium hydroxid solution. The combined aqueous extracts are treated with charcoal, filtrated and acidified with 15 ml of concentrated hydrochloric acid. The precipitating 1-(3'-trifluoromethanesulfonamido-4',6'-dimethylphenyl)-3-cyano-4,6-dimethyl-2-pyridone is separated and dried. Yield: 31.2 g (97.3% of the theory), mp. 274°-276° C.

reactant | 1-(3'-amino-4',6'-dimethylphenyl)-3-cyano-4,6-dimethyl-2-pyridone | 0.08 mol, 21.6 g | NC=1C=C(C(=CC1C)C)N1C(C(=C(C=C1C)C)C#N)=O | C16H17N3O
reactant | N,N-dimethylaniline | 10.4 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | trifluoromethanesulfonic acid anhydride | 14.8 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydroxid | 1 N, 50 ml | [OH-].[Na+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Trifluoromethanesulfonamido-4',6'-dimethylphenyl)-3-cyano-4,6-dimethyl-2-pyridone | FC(S(=O)(=O)NC=1C=C(C(=CC1C)C)N1C(C(=C(C=C1C)C)C#N)=O)(F)F | C17H16F3N3O3S
